US03966796
Preparation of methyl-1-N,N-dichloroamino-1-cyclopentanecarboxylate: To 30 ml of absolute methanol at 0° C, there was added dropwise with stirring over 0.5 hr. 7.9 ml of freshly distilled thionyl chloride. When the addition of thionyl chloride was completed, 12.9 g (0.1 mol) 1-amino-1-cyclopentanecarboxylic acid was added in portions over 0.25 hr. The suspension was heated with stirring, and the temperature maintained at 75° C for 2.5 hr. after solution of the reaction suspension. Removal of the methanol under reduced pressure gave an off-white crystalline mass. Trituration of this material with anhydrous ether gave 16.1 g (0.09 mol), 90%, methyl-1-amino-1-cyclopentanecarboxylate hydrochloride, mp 205°- 207° C acetone:hexane, kr (KBr) 1740 (C=O) cm-1 ; pmr (D2O) δ 3.95 (S, 3H) and 2.83 - 1.66 (m, 8H) ppm.

reactant | methanol | 30 ml | CO | CH4O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-amino-1-cyclopentanecarboxylic acid | 0.1 mol, 12.9 g | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | ether | CCOCC | C4H10O
solvent | acetone | CC(=O)C | C3H6O
product | methyl-1-amino-1-cyclopentanecarboxylate hydrochloride | Cl.COC(=O)C1(CCCC1)N | InChI=1S/C7H13NO2.ClH/c1-10-6(9)7(8)4-2-3-5-7;/h2-5,8H2,1H3;1H
